2102-07-15 07:26:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
 PICC LINE - START [**2102-7-14**] 10:30 AM
 CHEST PAIN - At [**2102-7-14**] 09:00 PM
   c/o pain in lower jaw after eating and rosolving over 90 sec to just
   pain in lower back teeth. ekg done (no changes) and pain resolved
   totally before nitroglycerine administered
   Neurology consult: evaluate for [**Location (un) 2533**] [**Location (un) 3792**] Syndrome; labs sent out.
   Low urine output; pt received 500cc bolus x 3 with no response
   Hypotension this am.
   Allergies:
   Penicillins
   Hives;
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Iodine
   itching;
   Latex
   itching;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2102-7-14**] 10:15 AM
   Cefipime - [**2102-7-14**] 08:28 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-7-15**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 106 (85 - 114) bpm
   BP: 100/50(62) {84/41(54) - 169/74(82)} mmHg
   RR: 17 (12 - 28) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,238 mL
                                                                    873 mL
   PO:
                                                                    600 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,638 mL
                                                                    773 mL
   Blood products:
   Total out:
                                                                    485 mL
                                                                     20 mL
   Urine:
                                                                    485 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,753 mL
                                                                    853 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///20/
   Physical Examination
   Gen: NAD, sedated, daughter at bedside
   CV: [**Name (NI) 3793**], no M/R/G
   Lungs: CTA anteriorly, crackles at lateral bases (posterior exam
   deferred), nonlabored breathing on mask and nasal cannula
   Abd: +bs, soft, ntnd
   Neuro: sedated, PERRL
   Ext: warm, dry, nonpalpable pedal pulses, 1 + radial pulses
   Labs / Radiology
   37 K/uL
   7.2 g/dL
   107 mg/dL
   1.8 mg/dL
   20 mEq/L
   4.1 mEq/L
   41 mg/dL
   107 mEq/L
   137 mEq/L
   21.2 %
   10.3 K/uL
        [image002.jpg]
                             [**2102-7-15**]  04:12 AM
   WBC
   10.3
   Hct
   21.2
   Plt
   37
   Cr
   1.8
   Glucose
   107
   Other labs: ALT / AST:[**9-4**], Alk Phos / T Bili:81/0.3,
   Differential-Neuts:78.0 %, Band:5.0 %, Lymph:7.0 %, Mono:4.0 %, Eos:0.0
   %, Albumin:2.3 g/dL, LDH:596 IU/L, Ca++:8.2 mg/dL, Mg++:3.1 mg/dL,
   PO4:4.0 mg/dL
   Microbiology:
   [**2102-7-14**] sputum gram stain: no organism seen
                  Sputum cx: pending
   [**2102-7-14**] Urine Legionella: negative
   [**2102-7-14**] Blood cx: pending
   [**2102-7-14**] urine cx: pending
   Imaging:
   [**2102-7-14**] ECHO: Suboptimal technical quality. Mild symmetric LVH. Left
   ventricular function is probably normal, but a focal wall motion
   abnormality cannot be fully excluded. The right ventricle is not well
   seen but appears to be normal in size and function. Trivial aortic
   regurgitation. Pulmonary artery systolic pressure could not be
   determined.
   [**2102-7-14**] CXR: left perihilar consolidation consistent with pneumonia
   unchanged; moderate interstitial and aveolar edema
   Assessment and Plan
   66 yo f with hx of COPD, CAD, and PVD. Pt was admitted [**2102-6-29**] for
   initiation of chemotherapy for SCLC.  Treatment was complicated by
   tachycardia, hypoxia, altered mental status, febrile neutropenia, and
   paraneoplastic syndrome.  Pt was admitted to ICU yesterday for
   progressive hypoxia and altered mental status.
   #.  Hypoxia - Differential includes infectious (fevers), pulmonary
   hemorrhage secondary to malignancy, PE (although is on fondaparinux),
   transfusion associated acute lung injury, increased tumor
   burden/shunting from tumor in lungs, or volume overload (patient
   received fluids and blood products).  Cardiac ischemia is also
   possibility, given history of chronic stable angina, although patient
   had been ruled out for MI on [**7-10**].  COPD also less likely given no
   evidence of obstruction on exam.
   # Hypotension: persists (70/40) despite IVF boluses; pain medications
   may be contributing.  Will continue IVF boluses prn; will hold pain
   medication while sedated.
   # Sinus tachycardia - Unclear aetiology.  Fevers and anemia are high on
   the differential.  PE is also possibility.  Dehydration/hypovolemia
   other possibility.
   # Fevers - ? pneumonia vs. secondary to malignancy.  Other possible
   sources include Port, urine, skin.
   # Acute renal failure
 Initially appeared pre-renal secondary to
   increased insensible losses, now nearly anuric in face of increased
   IVF.
   # Pancytopenia - Likely chemotherapy related.  Supportive care, and
   transfusion as needed, when able.
   # Aspiration risk - Nectar thickened liquids, aspiration precautions.
   # CAD/PVD - Continue atorvastatin, Imdur.  Aspirin and clopidogrel had
   been held for Port placement.
   # Anemia - consider transfusion when patient's oxygenation and
   temperature permits.
   # Pain control - continue oxycodone SR and IR, gabapentin,
   acetaminophen
   # Lower extremity weakness/upper extremity dysmetria - thought
   secondary to paraneoplastic process, responds somewhat to IVIG.
   # FEN:  Nectar thickened liquid diet
   # Access: Left arm [**Last Name (un) 3780**] PICC
   # PPx:  may discontinue fondaparinux, pantoprazole, bowel regimen.
   # Dispo:  ICU
   # Comm:
   daughter [**Name (NI) **] [**Last Name (NamePattern1) 3781**] is HCP
   (h) [**Telephone/Fax (1) 3782**]
   (w) [**Telephone/Fax (1) 3783**]
   alternate, daughter [**Name (NI) 2099**] [**Name (NI) 3784**]
   [**Telephone/Fax (1) 3785**]
   # Code:  DNR/DNI; [**Telephone/Fax (1) 617**]
   Discussed patient
s status with daughter (HCP).   Daughter did not
   think her mother would want a central line placed or the use of
   pressors.  Decision was made to make pt [**Name (NI) 617**].
   Pt currently looks comfortable.  Morphine drip will be ordered prn for
   discomfort and ativan IV for agitation.
   Pt
s family requested a priest.  [**Name (NI) 3794**] was called and reported to
   bedside.
   Continue oxygen and IVF.
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-7-14**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2102-07-15 19:53:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   HPI:
   24 Hour Events:
 PICC LINE - START [**2102-7-14**] 10:30 AM
 CHEST PAIN - At [**2102-7-14**] 09:00 PM
   c/o pain in lower jaw after eating and rosolving over 90 sec to just
   pain in lower back teeth. ekg done and pain resolved totally before
   nitroglycerine administered
   Experienced episode of jaw pain overnight (anginal equivalent) -->
   resoved spontaneously.
   Non-communicative this AM, but comfortable.  Episode of hypotension
   this AM during rounds, coinciding with administration of narcotics.
   Continues with reduced urine output --> anuric this AM.
   Extensive discussion with family members, including HCP --> primary
   goal of care is comfort.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Hives;
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Iodine
   itching;
   Latex
   itching;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-7-15**] 08:00 AM
   Vancomycin - [**2102-7-15**] 08:30 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2102-7-15**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, jaw pain
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-7-15**] 07:52 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 112 (85 - 130) bpm
   BP: 107/50(65) {77/37(50) - 169/56(77)} mmHg
   RR: 24 (12 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  2,237 mL
                                                                  1,795 mL
   PO:
                                                                    600 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,637 mL
                                                                  1,695 mL
   Blood products:
   Total out:
                                                                    485 mL
                                                                     67 mL
   Urine:
                                                                    485 mL
                                                                     67 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,752 mL
                                                                  1,728 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.2 g/dL
   37 K/uL
   107 mg/dL
   1.8 mg/dL
   20 mEq/L
   4.1 mEq/L
   41 mg/dL
   107 mEq/L
   137 mEq/L
   21.2 %
   10.3 K/uL
        [image002.jpg]
                             [**2102-7-15**]  04:12 AM
   WBC
   10.3
   Hct
   21.2
   Plt
   37
   Cr
   1.8
   Glucose
   107
   Other labs: ALT / AST:[**9-4**], Alk Phos / T Bili:81/0.3,
   Differential-Neuts:78.0 %, Band:5.0 %, Lymph:7.0 %, Mono:4.0 %, Eos:0.0
   %, Albumin:2.3 g/dL, LDH:596 IU/L, Ca++:8.2 mg/dL, Mg++:3.1 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   HYPOTENSION -- probable related to narcotics administration.  Also
   consider sepsis, hypovolemia (although evidence for pulmonary edema).
   Plan iv fluid bolus, but limited by respiratory status.
   RENAL FAILURE -- Probable ATN.  Doubt hypovolemia.  Poor prognosis if
   no resolution of acute renal failure.
   SMALL CELL CA -- widely metastatic.  Rapidly progressive.  Palliative.
   DNR/DNI -- focus care on comfort as per discussion with family.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2102-7-14**] 10:30 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2102-07-16 07:33:00 Physician Resident Progress Note
Chief Complaint: 66 yo f with hx of COPD, CAD, and PVD. Pt was admitted
   [**2102-6-29**] for initiation of chemotherapy for SCLC.  Treatment was
   complicated by tachycardia, hypoxia, altered mental status, febrile
   neutropenia, and paraneoplastic syndrome.  Pt was admitted to ICU
   yesterday for progressive hypoxia and altered mental status.
   24 Hour Events:
   Patient was made [**Month/Day/Year 617**] yesterday.  Patient's tachycardia improved
   overnight.  Patient was hypotensive for much of the day but has
   improved recently.
   [**Month (only) 60**] need to consider hospice.
   Allergies:
   Penicillins
   Hives;
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Iodine
   itching;
   Latex
   itching;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-7-15**] 08:00 AM
   Vancomycin - [**2102-7-15**] 08:30 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2102-7-16**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-7-16**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 35.9
C (96.7
   HR: 93 (93 - 130) bpm
   BP: 107/60(69) {77/37(49) - 113/60(69)} mmHg
   RR: 22 (13 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,840 mL
                                                                     74 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  1,740 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                    107 mL
                                                                     15 mL
   Urine:
                                                                    107 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,733 mL
                                                                     59 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 98%
   ABG: ////
   Physical Examination
   Gen:
   Lungs:
   CV:
   Abd:
   Ext:
   Labs / Radiology
   37 K/uL
   7.2 g/dL
   107 mg/dL
   1.8 mg/dL
   20 mEq/L
   4.1 mEq/L
   41 mg/dL
   107 mEq/L
   137 mEq/L
   21.2 %
   10.3 K/uL
        [image002.jpg]
   NO NEW LABS THIS AM
                             [**2102-7-15**]  04:12 AM
   WBC
   10.3
   Hct
   21.2
   Plt
   37
   Cr
   1.8
   Glucose
   107
   Other labs: ALT / AST:[**9-4**], Alk Phos / T Bili:81/0.3,
   Differential-Neuts:78.0 %, Band:5.0 %, Lymph:7.0 %, Mono:4.0 %, Eos:0.0
   %, Albumin:2.3 g/dL, LDH:596 IU/L, Ca++:8.2 mg/dL, Mg++:3.1 mg/dL,
   PO4:4.0 mg/dL
   Imaging: NO new images
   Microbiology: urine cx - NGTD
   sputum - gm stain neg
   could not process for PCP
   Assessment and [**Name9 (PRE) 440**]
   66 yo f with hx of COPD, CAD, and PVD. Pt was admitted [**2102-6-29**] for
   initiation of chemotherapy for SCLC.  Treatment was complicated by
   tachycardia, hypoxia, altered mental status, febrile neutropenia, and
   paraneoplastic syndrome.  Pt was admitted to ICU yesterday for
   progressive hypoxia and altered mental status.
   #.  Hypoxia - Differential includes infectious (fevers), pulmonary
   hemorrhage secondary to malignancy, PE (although is on fondaparinux),
   transfusion associated acute lung injury, increased tumor
   burden/shunting from tumor in lungs, or volume overload (patient
   received fluids and blood products).  Cardiac ischemia is also
   possibility, given history of chronic stable angina, although patient
   had been ruled out for MI on [**7-10**].  COPD also less likely given no
   evidence of obstruction on exam.
   # Hypotension: persists (70/40) despite IVF boluses; pain medications
   may be contributing.  Will continue IVF boluses prn; will hold pain
   medication while sedated.
   # Sinus tachycardia - Unclear aetiology.  Fevers and anemia are high on
   the differential.  PE is also possibility.  Dehydration/hypovolemia
   other possibility.
   # Fevers - ? pneumonia vs. secondary to malignancy.  Other possible
   sources include Port, urine, skin.
   # Acute renal failure
 Initially appeared pre-renal secondary to
   increased insensible losses, now nearly anuric in face of increased
   IVF.
   # Pancytopenia - Likely chemotherapy related.  Supportive care, and
   transfusion as needed, when able.
   # Aspiration risk - Nectar thickened liquids, aspiration precautions.
   # CAD/PVD - Continue atorvastatin, Imdur.  Aspirin and clopidogrel had
   been held for Port placement.
   # Anemia - consider transfusion when patient's oxygenation and
   temperature permits.
   # Pain control - continue oxycodone SR and IR, gabapentin,
   acetaminophen
   # Lower extremity weakness/upper extremity dysmetria - thought
   secondary to paraneoplastic process, responds somewhat to IVIG.
   # FEN:  Nectar thickened liquid diet
   # Access: Left arm [**Last Name (un) 3780**] PICC
   # PPx:  may discontinue fondaparinux, pantoprazole, bowel regimen.
   # Dispo:  ICU
   # Comm:
   daughter [**Name (NI) **] [**Last Name (NamePattern1) 3781**] is HCP
   (h) [**Telephone/Fax (1) 3782**]
   (w) [**Telephone/Fax (1) 3783**]
   alternate, daughter [**Name (NI) 2099**] [**Name (NI) 3784**]
   [**Telephone/Fax (1) 3785**]
   # Code:  DNR/DNI; [**Telephone/Fax (1) 617**]
   Discussed patient
s status with daughter (HCP).   Daughter did not
   think her mother would want a central line placed or the use of
   pressors.  Decision was made to make pt [**Name (NI) 617**].
   Pt currently looks comfortable.  Morphine drip will be ordered prn for
   discomfort and ativan IV for agitation.
   Pt
s family requested a priest.  [**Name (NI) 3794**] was called and reported to
   bedside.
   Continue oxygen and IVF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-7-14**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2102-07-16 12:16:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Somewhat more stable today.  Able to communicate.  BP improved.
   Remains with low urine output.    Continues to require supplimental
   oxygen to maintain SaO2 >90%.
   Family present in room.
   CMO.  (prn morphine and ativan)
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Hives;
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Iodine
   itching;
   Latex
   itching;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-7-15**] 08:00 AM
   Vancomycin - [**2102-7-15**] 08:30 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2102-7-16**] 11:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Flowsheet Data as of  [**2102-7-16**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.3
C (97.4
   HR: 101 (93 - 130) bpm
   BP: 102/58(65) {84/37(49) - 113/60(69)} mmHg
   RR: 15 (13 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  1,840 mL
                                                                    119 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  1,740 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                    107 mL
                                                                    175 mL
   Urine:
                                                                    107 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,733 mL
                                                                    -56 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): Person, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.2 g/dL
   37 K/uL
   107 mg/dL
   1.8 mg/dL
   20 mEq/L
   4.1 mEq/L
   41 mg/dL
   107 mEq/L
   137 mEq/L
   21.2 %
   10.3 K/uL
        [image002.jpg]
                             [**2102-7-15**]  04:12 AM
   WBC
   10.3
   Hct
   21.2
   Plt
   37
   Cr
   1.8
   Glucose
   107
   Other labs: ALT / AST:[**9-4**], Alk Phos / T Bili:81/0.3,
   Differential-Neuts:78.0 %, Band:5.0 %, Lymph:7.0 %, Mono:4.0 %, Eos:0.0
   %, Albumin:2.3 g/dL, LDH:596 IU/L, Ca++:8.2 mg/dL, Mg++:3.1 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   Hypoxemia, aspiration; renal failure.
   HYPOXEMIA -- attributed to pulmonary edema and aspiration.  Stable with
   supplimental oxygen.  Monitor SaO2, maintain >90%.
   PNEUMONIA -- attributed to aspiration.
   SMALL CELL CA -- advanced, progressive.  Palliative.
   RENAL FAILURE -- oliguric, with some increased urine output, but rising
   creatinine.  Prognosis guarded.
   DISPOSITION -- CMO as per family discussions.  Family desires to move
   to home hospice if possible.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-7-14**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes

2102-07-17 07:57:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
   Pt [**Name (NI) 617**].
   Allergies:
   Penicillins
   Hives;
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Iodine
   itching;
   Latex
   itching;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-7-15**] 08:00 AM
   Vancomycin - [**2102-7-15**] 08:30 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2102-7-17**] 02:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-7-17**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 97 (94 - 101) bpm
   BP: 109/55(67) {82/40(51) - 119/88(96)} mmHg
   RR: 15 (14 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    240 mL
                                                                     78 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                    160 mL
   Urine:
                                                                    425 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -185 mL
                                                                    -82 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   37 K/uL
   7.2 g/dL
   107 mg/dL
   1.8 mg/dL
   20 mEq/L
   4.1 mEq/L
   41 mg/dL
   107 mEq/L
   137 mEq/L
   21.2 %
   10.3 K/uL
        [image002.jpg]
                             [**2102-7-15**]  04:12 AM
   WBC
   10.3
   Hct
   21.2
   Plt
   37
   Cr
   1.8
   Glucose
   107
   Other labs: ALT / AST:[**9-4**], Alk Phos / T Bili:81/0.3,
   Differential-Neuts:78.0 %, Band:5.0 %, Lymph:7.0 %, Mono:4.0 %, Eos:0.0
   %, Albumin:2.3 g/dL, LDH:596 IU/L, Ca++:8.2 mg/dL, Mg++:3.1 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   Assessment and Plan
   66 yo f with hx of COPD, CAD, and PVD. Pt was admitted [**2102-6-29**] for
   initiation of chemotherapy for SCLC.  Treatment was complicated by
   tachycardia, hypoxia, altered mental status, febrile neutropenia, and
   paraneoplastic syndrome.  Pt was admitted to ICU [**7-15**] for progressive
   hypoxia and altered mental status.  Patient was made [**Month/Year (2) 617**] [**7-15**].
   # [**Month/Year (2) 617**]: patient is written for PRN morphine and ativan.  She is not
   having problems with agitation.
   -          will touch base again with Onc team re: patient
s new goals
   of care
   -          palliative care vs. social work consult for hospice.
   -          Add scopolamine patch to decrease secretions.
   -          Continue O2 to comfort and IVF
   # FEN:  Nectar thickened liquid diet.  Patient is aspiration risk, but
   may eat if desired.
   # Access: Left arm [**Last Name (un) 3780**] PICC
   # Comm:
   daughter [**Name (NI) **] [**Last Name (NamePattern1) 3781**] is HCP
   (h) [**Telephone/Fax (1) 3782**]
   (w) [**Telephone/Fax (1) 3783**]
   alternate, daughter [**Name (NI) 2099**] [**Name (NI) 3784**]
   [**Telephone/Fax (1) 3785**]
   # Code:  DNR/DNI; [**Telephone/Fax (1) 617**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-7-14**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2102-07-17 12:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, hypoxemia, acute renal failure,
   altered mental status.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Urine output remains marginal. Patient continues open face tent for
   supplemental oxygen. Responds to some simple commands. Getting morphine
   as needed for comfort.
   No new labs obtained.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Penicillins
   Hives;
   Demerol (Injection) (Meperidine Hcl)
   Hives;
   Iodine
   itching;
   Latex
   itching;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-7-15**] 08:00 AM
   Vancomycin - [**2102-7-15**] 08:30 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2102-7-17**] 02:50 AM
   Other medications:
   Scopalamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-7-17**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 97 (94 - 102) bpm
   BP: 102/51(63) {82/40(51) - 119/88(96)} mmHg
   RR: 16 (14 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    240 mL
                                                                    122 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                    280 mL
   Urine:
                                                                    425 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -185 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes :
   Anteriorally. I/E=[**12-21**], No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   37 K/uL
   107 mg/dL
   1.8 mg/dL
   20 mEq/L
   4.1 mEq/L
   41 mg/dL
   107 mEq/L
   137 mEq/L
   21.2 %
   10.3 K/uL
        [image002.jpg]
                             [**2102-7-15**]  04:12 AM
   WBC
   10.3
   Hct
   21.2
   Plt
   37
   Cr
   1.8
   Glucose
   107
   Other labs: ALT / AST:[**9-4**], Alk Phos / T Bili:81/0.3,
   Differential-Neuts:78.0 %, Band:5.0 %, Lymph:7.0 %, Mono:4.0 %, Eos:0.0
   %, Albumin:2.3 g/dL, LDH:596 IU/L, Ca++:8.2 mg/dL, Mg++:3.1 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   1) Respiratory Distress
   2) Hypoxemia
   3) Acute renal failure
   4) Metastatic lung ca
   Treatment remains focused on patient comfort. Arrangements being made
   for home hospice. Oxygenation adequate on open face mask. Patient
   denies pain and shortness of breath. Family with patient and states
   they have not seen any evidence of pain for respiratory distress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-7-14**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :D/C Home with hospice
   Total time spent: 25 minutes